US08389670B2
Preparation of 1,3-Bis(trimethylstannyl)-thieno[3,2-b]thiophene
1 g (7.1 mmol) thieno[3,2-b]thiophene are dissolved in 40 ml anhydrous THF under argon and cooled to −78° C. 11 ml (17.6 mmol) of a 1.6 M tert-butyllithium solution in pentane are added slowly. The mixture is stirred for 2 hours at −78° C., then 4 g (20 mmol) trimethyltin chloride are added as solid. The solution is warmed to room temperature and, stirred for one hour. The solution is diluted with 100 ml diethylether, extracted with aqueous sodium bicarbonate solution, dried and evaporated. The residue is crystallized from acetonitrile at −20° C. to yield 1.9 g (58%) of colorless crystals. Mp=130° C., MS (FD, 8 kV) m/z=465.4 g/mol—calculated: 465.9 g/mol for C12H20S2Sn2; 1H-NMR (300 MHz, CD2 Cl2, RT): δ 7.28 (s, 2H), δ 0.41 (s, 2H); 13C-NMR (75 MHz, CD2Cl2, RT): δ 148.0, 142.0, 16.6, −8.0; elemental analysis: found 30.91%, 4,48% H, 13.61% S—calculated: 30.94% C, 4.33% H, 13.77% S.

reactant | thieno[3,2-b]thiophene | 7.1 mmol, 1 g | S1C2=C(C=C1)SC=C2 | C6H4S2
reactant | tert-butyllithium | 1.6 M | C(C)(C)(C)[Li]
reactant | trimethyltin chloride | 20 mmol, 4 g | C[Sn](C)(C)Cl
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | 1,3-Bis(trimethylstannyl)-thieno[3,2-b]thiophene | 1.9 g, 58% | C[Sn](S1C2=C(C(=C1)[Sn](C)(C)C)SC=C2)(C)C | InChI=1S/C6H3S2.6CH3.2Sn/c1-3-7-6-2-4-8-5(1)6;;;;;;;;/h1,3-4H;6*1H3;;/q;;;;;;;;-1/p+1
